*
* NGSPICE simulation script
* T1
*

* forces current values to be saved
.options savecurrents



* independent voltage source
Va n1 GND dc 5.01015797903

* dependent voltage source and voltage source necessary to define it
VO GND n6a dc 0
Hc n5 n7 VO 8.13697715515k


* independent current source
Id n7 n4 dc 1.02637626609m

* dependent current source
Gb n4 n3 n2 n5 7.27607852163m

* resistors
R1 n1 n2 1.03034608494k
R2 n2 n3 2.03076273175k
R3 n2 n5 3.09442618781k
R4 GND n5 4.08713017488k
R5 n4 n5 3.00518812223k
R6 n6a n6 2.03106965039k
R7 n6 n7 1.04759435052k

.control
op

echo "********************************************"
echo  "Circuit analyzis"
echo "********************************************"

echo  "current_TAB"

print @R1[i]
print @R2[i]
print @R3[i]
print @R4[i]
print @R5[i]
print @R6[i]
print @R7[i]

echo  "current_END"

.endc
.end
